US04742060
To a solution of 13.1 g of 1-nitro-2-pentanone in 200 ml of dimethylsulfoxide was added dropwise 44 g of 20% sodium hydroxide solution at 10°-20° C. 12 g of carbon disulfide was then added dropwise to the solution at 10° C. and the mixture was stirred for 2 hours at 0°-10° C. 57 g of methyliodide was dropped into the mixture with ice cooling and the reaction mixture was allowed to stand overnight at room temperature. This was then poured into ice water and the organic layer was extracted with dichloromethane. The extract was washed with water a few times, and after removing the solvent the residue was purified by chromatography on a silicagel column to give desired 1-butyroyl-1-nitro-2,2-bis(methylthio)ethylene. The yield is 3.0 g.

reactant | 1-nitro-2-pentanone | 13.1 g | [N+](=O)([O-])CC(CCC)=O | C5H9NO3
reactant | sodium hydroxide | 44 g | [OH-].[Na+]
reactant | carbon disulfide | 12 g | C(=S)=S | CS2
reactant | methyliodide | 57 g | CI | CH3I
reactant | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 1-butyroyl-1-nitro-2,2-bis(methylthio)ethylene | C(CCC)(=O)C(=C(SC)SC)[N+](=O)[O-] | C8H13NO3S2
